US07696223B2
a) 4-Acetoxy-2,3-dibromo-1-(4-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 120(a) from 2,3-dibromo-1-(4-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, acetic anhydride, and triethyl amine. The title compound, ESI MS (m/z): 513 (M+H)+.

reactant | 2,3-dibromo-1-(4-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC=C(C=C2)F)O | C17H13Br2FN2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 4-Acetoxy-2,3-dibromo-1-(4-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC=C(C=C2)F)OC(C)=O | C19H15Br2FN2O4
